US08202894B2
a) Preparation of 3,5-dichloro-2-((E)-nitropropenyl)benzo[b]thiophene
In a sulfonation flask, a mixture containing 6.93 g (0.03 mol) 3,5-dichlorobenzo[b]thio-phene-2-carbaldehyde, 18 g (0.24 mol) nitroethane, 5.8 g (0.075 mol) ammoniumacetate and 60 ml acetic acid is heated at 90° C. for 6 hours. After cooling ethylacetate is added and the organic phase washed three times with water. The organic phase is dried over sodium sulphate and after filration the organic solvent is distilled off in a water jet vacuum. The residue is purified by column chromatography over silicagel (eluent: ethylacetate/heptane 1:5). After chromatography further purification via crystallisation from ethylacetate could be achieved. Yield: 4 g (47% of theory). M.p. 143°-146° C.

reactant | 3,5-dichlorobenzo[b]thio-phene-2-carbaldehyde | 0.03 mol, 6.93 g | ClC=1C2=C(SC1C=O)C=CC(=C2)Cl | C9H4Cl2OS
reactant | nitroethane | 0.24 mol, 18 g | [N+](=O)([O-])CC | C2H5NO2
reactant | ammoniumacetate | 0.075 mol, 5.8 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3,5-dichloro-2-((E)-nitropropenyl)benzo[b]thiophene | ClC=1C2=C(SC1\C=C\C[N+](=O)[O-])C=CC(=C2)Cl | C11H7Cl2NO2S
